US05559111
5(S)-Amino-4(S)-hydroxy-2(S),7(S)-diisopropyl-8-[4-methoxy-3-(3-methoxypropyloxy)-phenyl]-octanoic acid N-(2-morpholinoethyl)amide dihydrochloride
3.09 g of 5(S)-tert-butoxycarbonylamino-4(S)-hydroxy-2(S),7(S)-diisopropyl-8-[4-methoxy-3-(3-methoxypropyloxy)-phenyl]-octanoic acid N-(2-morpholinoethyl)amide are dissolved in 40 ml of 4N hydrochloric acid in dioxane at 0° C. and the solution is stirred at 0° C. for 2 hours. The reaction mixture is lyophilised and the title compound is obtained: Rf (dichloromethane/methanol=8:2)=0.27; HPLC Rt =9.52 minutes; HR FAB-MS (M+H)+ =566.

reactant | 5(S)-tert-butoxycarbonylamino-4(S)-hydroxy-2(S),7(S)-diisopropyl-8-[4-methoxy-3-(3-methoxypropyloxy)-phenyl]-octanoic acid N-(2-morpholinoethyl)amide | 3.09 g | O1CCN(CC1)CCNC([C@@H](C[C@@H]([C@H](C[C@H](CC1=CC(=C(C=C1)OC)OCCCOC)C(C)C)NC(=O)OC(C)(C)C)O)C(C)C)=O | C36H63N3O8
reactant | hydrochloric acid | 4N, 40 ml | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 5(S)-Amino-4(S)-hydroxy-2(S),7(S)-diisopropyl-8-[4-methoxy-3-(3-methoxypropyloxy)-phenyl]-octanoic acid N-(2-morpholinoethyl)amide dihydrochloride | Cl.Cl.O1CCN(CC1)CCNC([C@@H](C[C@@H]([C@H](C[C@H](CC1=CC(=C(C=C1)OC)OCCCOC)C(C)C)N)O)C(C)C)=O | InChI=1S/C31H55N3O6.2ClH/c1-22(2)25(18-24-8-9-29(38-6)30(19-24)40-15-7-14-37-5)20-27(32)28(35)21-26(23(3)4)31(36)33-10-11-34-12-16-39-17-13-34;;/h8-9,19,22-23,25-28,35H,7,10-18,20-21,32H2,1-6H3,(H,33,36);2*1H/t25-,26-,27-,28-;;/m0../s1
